US07541368B2
To a stirring solution of 4-[(4-ethoxycarbonyl-phenyl-)hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester (2.145 g, 6.18 mmol) in methanol (30 mL) is added 10 mL of 1N aqueous NaOH and the reaction is heated in a 50° C. bath for 1 hour. The reaction is cooled to 0° C. and carefully acidified with 1N aqueous HCl. The reaction is extracted with dichloromethane (DCM), dried over MgSO4, filtered and concentrated to give 1.34 grams of 4-(carboxy-benzyl)-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-[(4-ethoxycarbonyl-phenyl-)hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 6.18 mmol, 2.145 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C1=CC=C(C=C1)C(=O)OCC | C20H29NO5
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | methanol | 30 mL | CO | CH4O
product | 4-(carboxy-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.34 grams | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=CC=C1)C(=O)O | C18H25NO4
